US04956359
1-Phenyl-4-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]piperazine
A mixture of 2.8 g (0.01 mole) of 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and 1.4 g (0.01 mole) of potassium carbonate in 25 ml of tetrahydrofuran was stirred for 10 min then 1.6 g (0.01 mole) of 1-phenylpiperazine was added. After stirring for 30 min, approximately 2 g of ice was added and stirring continued for 18 hr. The reaction mixture was diluted with 200 ml of water and the oil which separated was extracted into methylene chloride (2×50 ml), dried and concentrated in vacuo to yield 5.1 g of crude dark yellow oil, which solidified when cooled to -78° C. Recrystallization from isopropyl ether yielded 2.2 g (54.3%) of pale yellow crystals, m.p. 93°-94° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenylpiperazine | 0.01 mole, 1.6 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1-Phenyl-4-[3-[3-(trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]piperazine | 2.2 g, 54.3% | C1(=CC=CC=C1)N1CCN(CC1)C(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C21H22F3N3O2
